2150-12-06 08:17:00 Physician Resident Progress Note
Chief Complaint: Pneumonia, hypoxemia
   24 Hour Events:
 EKG - At [**2150-12-5**] 07:30 PM
   After admission, o/n pt remained stable but with copious secretions.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-5**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-6**] 05:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-5**] 10:40 PM
   Heparin Sodium (Prophylaxis) - [**2150-12-6**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2150-12-6**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 99 (95 - 116) bpm
   BP: 144/58(81) {95/51(62) - 144/73(89)} mmHg
   RR: 30 (24 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,856 mL
                                                                    874 mL
   PO:
             TF:
   IVF:
                                                                    856 mL
                                                                    874 mL
   Blood products:
   Total out:
                                                                     84 mL
                                                                     90 mL
   Urine:
                                                                     60 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,772 mL
                                                                    784 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x1, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   279 K/uL
   10.5 g/dL
   125 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   30.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2150-12-6**]  03:56 AM
   WBC
   10.5
   Hct
   30.4
   Plt
   279
   Cr
   0.6
   TropT
   <0.01
   Glucose
   125
   Other labs: PT / PTT / INR:14.9/32.9/1.3, CK / CKMB /
   Troponin-T:22/3/<0.01, Differential-Neuts:91.0 %, Lymph:5.5 %, Mono:2.9
   %, Eos:0.5 %, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOXEMIA
   Assessment: [**Age over 90 **] yo woman with recent admission for LLL pneumonia
   (discharged [**12-1**]), presents with hypoxia and respiratory distress,
   found to have persistent opacity on CXR and UTI.
   .
   Plan:
   # Hypoxia/respiratory failure: Pneumonia most likey - health care
   acquired as pt is a nursing home resident and recent admission for LLL
   PNA. Given sudden onset, aspiration event possible, though LLL would be
   atypical location. Was discharged on Levo/Flagyl, will require broader
   coverage given relapse. No evidence of CHF on chest X-ray.  Pt stable
   overnight but with copious secretions
   - broad spectrum abx - Vanco/Zosyn
   - sputum sx
   - chest PT
   - aspiration precautions - strict NPO including meds
   - NRB for now to maintain sats
   - consider nebulizer treatments
   - if modest improvement, consider CT scan of lungs in [**2-4**] days
   .
   # UTI: Hx of VRE UTI in the past, recent urine cx [**12-3**] was no growth.
   - repeat urine cx
   - treating broadly w/ vanc/zosyn to cover most GU organisms (will need
   to change coverage if grows VRE)
   .
   # Tachycardia: Sinus tachycardia vs. SVT. Appears sinus rhythm on
   repeat EKG with slower rate. [**Month (only) 60**] be related to early sepsis vs.
   dehydration, infection.
   - repeat EKG
   - restart low dose beta blocker if HR sustains > 130
   - trend CE
   - cont IVFs
   .
   # ? history of PUD
   - continue PPI
   .
   # FEN: NPO including meds, IVFs, replete lytes prn
   # Access : PIV 18g x 2
   # Prophylaxis
   - Heparin SQ tid
   - PPI
   - bowel regimen if taking po
   # Code status: DNR/DNR, confirmed with son [**Name (NI) 6287**]
   # [**Name2 (NI) **]: [**Name (NI) 6287**] [**Name (NI) 6280**] (wife [**Doctor First Name 2374**] [**Telephone/Fax (1) 6282**], c [**Telephone/Fax (1) 6288**].
   Daughter ([**First Name8 (NamePattern2) 2856**] [**Last Name (NamePattern1) 6283**] - [**Telephone/Fax (1) 6284**]) lives in [**Location 652**] and is ill
   with COPD and home oxygen.
   # Dispo: ICU level of care
   ICU Care
   Nutrition:  NPO for now. IVF
   Glycemic Control:  No Insulin needed for now
   Lines:
   18 Gauge - [**2150-12-5**] 06:02 PM
   Prophylaxis:
   DVT:  Hep SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU for now

2150-12-07 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2150-12-6**] 08:36 AM
 SPUTUM CULTURE - At [**2150-12-6**] 10:53 AM
   - Patient is DNR/DNI with no lines or pressors
   - Nasotracheal suctioned several times with good mobilization of
   secretions
   - Ipratroprium nebs ordered standing
   - Patient in A-fib early afternoon requiring 5 mg lopressor and 10 mg
   IV diltiazem, but converted to NSR at 7 PM.
   - Swallow eval on Monday for concern of aspiration
   - Poor UOP despite bolusses and +5L for length of stay.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-6**] 08:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2150-12-6**] 12:00 PM
   Diltiazem - [**2150-12-6**] 04:05 PM
   Heparin Sodium (Prophylaxis) - [**2150-12-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-7**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 83 (83 - 135) bpm
   BP: 125/52(70) {101/49(64) - 166/83(98)} mmHg
   RR: 22 (22 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 44.1 kg (admission): 41.3 kg
   Height: 66 Inch
             Total In:
                                                                  3,009 mL
                                                                    264 mL
   PO:
             TF:
   IVF:
                                                                  3,009 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                    322 mL
                                                                     80 mL
   Urine:
                                                                    322 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,687 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: NAD, Aox2
   CV: RRR, No M/R/G
   Pulm: Rhonchi with mucous plugging heard throughout
   Abd: Soft, NT/ND, BS+
   Extr: 1+ edema to ankles, pulses 2+ and symmetric
   Labs / Radiology
   287 K/uL
   10.3 g/dL
   125 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   29.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2150-12-6**]  03:56 AM
                             [**2150-12-6**]  03:30 PM
   WBC
   10.5
   14.5
   Hct
   30.4
   29.6
   Plt
   279
   287
   Cr
   0.6
   TropT
   <0.01
   Glucose
   125
   Other labs: PT / PTT / INR:14.9/32.9/1.3, CK / CKMB /
   Troponin-T:22/3/<0.01, Differential-Neuts:91.0 %, Lymph:5.5 %, Mono:2.9
   %, Eos:0.5 %, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 HYPOXEMIA
   [**Age over 90 **] yo woman with recent admission for LLL pneumonia (discharged
   [**12-1**]), presents with hypoxia and respiratory distress, found to have
   persistent opacity on CXR and UTI.
   .
   Plan:
   # Hypoxia/respiratory failure: Pneumonia most likey - health care
   acquired as pt is a nursing home resident and recent admission for LLL
   PNA. Given sudden onset, aspiration event possible, though LLL would be
   atypical location. Was discharged on Levo/Flagyl, will require broader
   coverage given relapse. No evidence of CHF on chest X-ray.  Pt stable
   overnight but with copious secretions
   - broad spectrum abx - Vanco/Zosyn
   - sputum sx
   - chest PT
   - aspiration precautions - strict NPO including meds
   - NRB for now to maintain sats
   - consider nebulizer treatments
   - if modest improvement, consider CT scan of lungs in [**2-4**] days
   .
   # UTI: Hx of VRE UTI in the past, recent urine cx [**12-3**] was no growth.
   - repeat urine cx
   - treating broadly w/ vanc/zosyn to cover most GU organisms (will need
   to change coverage if grows VRE)
   .
   # Tachycardia: Sinus tachycardia vs. SVT. Appears sinus rhythm on
   repeat EKG with slower rate. [**Month (only) 60**] be related to early sepsis vs.
   dehydration, infection.
   - repeat EKG
   - restart low dose beta blocker if HR sustains > 130
   - trend CE
   - cont IVFs
   .
   # ? history of PUD
   - continue PPI
   .
   # FEN: NPO including meds, IVFs, replete lytes prn
   # Access : PIV 18g x 2
   # Prophylaxis
   - Heparin SQ tid
   - PPI
   - bowel regimen if taking po
   # Code status: DNR/DNR, confirmed with son [**Name (NI) 6287**]
   # [**Name2 (NI) **]: [**Name (NI) 6287**] [**Name (NI) 6280**] (wife [**Doctor First Name 2374**] [**Telephone/Fax (1) 6282**], c [**Telephone/Fax (1) 6288**].
   Daughter ([**First Name8 (NamePattern2) 2856**] [**Last Name (NamePattern1) 6283**] - [**Telephone/Fax (1) 6284**]) lives in [**Location 652**] and is ill
   with COPD and home oxygen.
   # Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-12-5**] 06:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2150-12-07 10:44:00 Physician Attending Progress Note
Chief Complaint: sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2150-12-6**] 08:36 AM
 SPUTUM CULTURE - At [**2150-12-6**] 10:53 AM
   Large amount of thick secretions requiring frequent nasotracheal
   suctioning
   Atrial fibrillation with RVR for which she received IV lopressor,
   diltiazem and converted back to SR
   Poor urine output depsite fluid blouses albeit foley leaking; nurse
   found bed soaked this morning prior to rounds
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-7**] 06:00 AM
   Vancomycin - [**2150-12-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2150-12-6**] 12:00 PM
   Diltiazem - [**2150-12-6**] 04:05 PM
   Heparin Sodium (Prophylaxis) - [**2150-12-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-7**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 87 (83 - 135) bpm
   BP: 151/68(90) {101/49(64) - 151/83(93)} mmHg
   RR: 26 (18 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 44.1 kg (admission): 41.3 kg
   Height: 66 Inch
             Total In:
                                                                  3,009 mL
                                                                    596 mL
   PO:
             TF:
   IVF:
                                                                  3,009 mL
                                                                    596 mL
   Blood products:
   Total out:
                                                                    322 mL
                                                                    160 mL
   Urine:
                                                                    322 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,687 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : [**2-5**] way up on right,
   basilar on left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): name,
   hospital, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   324 K/uL
   70 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   20 mg/dL
   109 mEq/L
   141 mEq/L
   29.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2150-12-6**]  03:56 AM
                             [**2150-12-6**]  03:30 PM
                             [**2150-12-7**]  06:00 AM
   WBC
   10.5
   14.5
   13.0
   Hct
   30.4
   29.6
   29.2
   Plt
   279
   287
   324
   Cr
   0.6
   0.5
   TropT
   <0.01
   Glucose
   125
   70
   Other labs: PT / PTT / INR:14.9/32.9/1.3, CK / CKMB /
   Troponin-T:22/3/<0.01, Differential-Neuts:91.0 %, Lymph:5.5 %, Mono:2.9
   %, Eos:0.5 %, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:  RLL
   Assessment and Plan
 HYPOXEMIC ACUTE RESPIRATORY FAILURE: Secondary to BLL nosocomial
   pneumonia.  Mobilizing large amount of secretions once hydrated.
   Continues on vanco/zosyn/levoquin.   Continue nebs.  Vanco dose
   adjusted based on weight.  WBC slightly down.
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP):  As above.

 UTI:  Growing greater than 100K yeast.  Not clear if foley is
   chronic from the NH. Will discontinue foley.  Repeat UA, C+S.
 ATRIAL FIBRILLATION WITH RVR:  Now converted back to sinus rhythm
   which she continues in this morning.  Likely triggered by acute
   respiratory decompensation.  Will continue to monitor.
 HYPERTENSION:  Benign HTN, restarting beta blocker.
 HYPOKALEMIA:  Replete and followup electrolytes this afternoon.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2150-12-5**] 06:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill